US04263311
A mixture of 5.4 g. (0.012 mole) of 5,6-bis(p-N-ethyl-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole hemihydrate and 80 ml. of 6 N aqueous hydrochloric acid was refluxed under nitrogen with stirring for 3 hours, cooled and made alkaline with a 10% solution of sodium hydroxide. The mixture was extracted with methylene chloride and the organic phase dried over anhydrous potassium carbonate, filtered and evaporated in vacuo to give 5,6-bis(p-N-ethylaminophenyl)-2,3-dihydroimidazo[2,1-b]thiazole.

reactant | 5,6-bis(p-N-ethyl-acetamidophenyl)-2,3-dihydroimidazo[2,1-b]thiazole hemihydrate | 0.012 mole | O.C(C)N(C(C)=O)C1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)N(C(C)=O)CC.C(C)N(C(C)=O)C2=CC=C(C=C2)C2=C(N=C1SCCN12)C1=CC=C(C=C1)N(C(C)=O)CC
reactant | hydrochloric acid | 6 N | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
product | 5,6-bis(p-N-ethylaminophenyl)-2,3-dihydroimidazo[2,1-b]thiazole | C(C)NC1=CC=C(C=C1)C1=C(N=C2SCCN21)C2=CC=C(C=C2)NCC | C21H24N4S
